US09301951B2
Intermediate 53a: N-(3-(trifluoromethyl)benzyl)-2-(2-(2-((methylamino)methyl)-picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide
Into a 10-mL vial, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(2-(chloromethyl)picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (150 mg, 0.25 mmol, 1.00 equiv) in dichloromethane (5 mL), methylamine (2 mL). The resulting solution was stirred for 48 h at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:10-1:5). The product was obtained as 110 mg (74%) of a yellow solid.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(2-(chloromethyl)picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.25 mmol, 150 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2(NC=CC=C2)CCl)=O)=O)C=CC1)(F)F | C32H31ClF3N5O2
reactant | methylamine | 2 mL | CN | CH5N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(3-(trifluoromethyl)benzyl)-2-(2-(2-((methylamino)methyl)-picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 110 mg, 74% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2(NC=CC=C2)CNC)=O)=O)C=CC1)(F)F | C33H35F3N6O2
